US05523463
15.4 ml of a 2.6 molar solution of hexyllithium in hexane were added dropwise at -80° C. to a solution of 9.50 g of methyl (S)-2-methoxycarbonylamino-3-phenyl-propionate in 60 ml of tetrahydrofuran. Subsequently, the mixture was treated with 5.60 ml of chlorotrimethylsilane. The resulting suspension was stirred and treated with 3.22 ml of bromochloromethane. Subsequently, 18.4 ml of hexyllithium solution were added. The solution was treated at -80° C. with 11 ml of 20% methanolic hydrochloric acid, warmed to 22° and diluted with 100 ml of water and 40 ml of tetrahydrofuran. The phases were separated and the organic phase was washed with saturated sodium chloride solution, dried and concentrated. The residue was recrystallized from ethyl acetate and hexane and the crystallizate was dried, yielding 7.20 g (70%) of pure methyl (S)-(1-benzyl-3-chloro-2-oxo-propyl)carbamate, m.p. 122°-123° C. IR (KBr): 3336s (NH), 1737s and 1686s (C=O), 1535s (amide II).

reactant | hexyllithium | C(CCCCC)[Li]
reactant | methyl (S)-2-methoxycarbonylamino-3-phenyl-propionate | 9.50 g | COC(=O)N[C@H](C(=O)OC)CC1=CC=CC=C1 | C12H15NO4
reactant | chlorotrimethylsilane | 5.60 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | bromochloromethane | 3.22 ml | BrCCl | CH2BrCl
reactant | hexyllithium | 18.4 ml | C(CCCCC)[Li]
reactant | hydrochloric acid | 11 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | methyl (S)-(1-benzyl-3-chloro-2-oxo-propyl)carbamate | 7.20 g, 70% | C(C1=CC=CC=C1)[C@@H](C(CCl)=O)NC(OC)=O | C12H14ClNO3
